US07361198B2
Stage 1: 4-[(E)-2-(2,4-dinitrophenyl)ethenyl]pyridine
1.4 g (7.7 mmol) of 2,4-dinitrotoluene, 0.82 g (7.7 mmol) of pyridine-4-carboxaldehyde and 0.2 mL of pyrrolidine were charged to a round-bottomed flask. The flask was fitted with a splash protector and then irradiated for 20 seconds in a domestic microwave oven (850 watt). The mixture was then allowed to cool, and the product was caused to precipitate by addition of 20 mL of acetone. Suction-filtration and drying at 40° C. under vacuum have 0.9 g of product (43% of the theoretical).

reactant | 2,4-dinitrotoluene | 7.7 mmol, 1.4 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6N2O4
reactant | pyridine-4-carboxaldehyde | 7.7 mmol, 0.82 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | pyrrolidine | 0.2 mL | N1CCCC1 | C4H9N
product | 4-[(E)-2-(2,4-dinitrophenyl)ethenyl]pyridine | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])/C=C/C1=CC=NC=C1 | C13H9N3O4
